US07459454B2
(a) Preparation of Methyl 3-amino-6-bromopyrazine-2-carboxylate
Methyl 2-aminopyrazine-3-carboxylate (5.0 g, 32.65 mmol) was dissolved in 100 mL of THF and treated with N-Bromosuccinimide (6.9 g, 39.18 mmol) all at once. The mixture was stirred at room temperature for 1.5 hrs, and then another 0.5 equivalents of N-bromosuccinimide was added and stirring continued for 1 hr. 10 grams of sodium sulfate were added, the mixture was vigorously stirred for 15 minutes, and the solvent was removed in vacuo. The residue obtained was suspended in 250 mL of water and stirred rapidly. Filtration afforded the title compound, methyl 3-amino-6-bromopyrazine-2-carboxylate, as a tan solid (6.33 g).

reactant | Methyl 2-aminopyrazine-3-carboxylate | 32.65 mmol, 5.0 g | NC1=NC=CN=C1C(=O)OC | C6H7N3O2
reactant | N-Bromosuccinimide | 39.18 mmol, 6.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 0.5 equivalents | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium sulfate | 10 grams | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 250 mL | O | H2O
product | methyl 3-amino-6-bromopyrazine-2-carboxylate | NC=1C(=NC(=CN1)Br)C(=O)OC | C6H6BrN3O2
